US05914328
57a 1-allyl-2-(S)-pyrrolidinemethanol
(S)-1-methyl-2-pyrrolidinemethanol (5.10 g, 50 mmol, Aldrich Chemical Co.) was dissolved in 50 mL of CHCl3, then 5.25 mL of allyl bromide and 8.34 mL of triethylamine were added. The reaction mixture was stirred at room temperature for 2 hours, then the volatiles were removed under reduced pressure. The residue was purified by chromatography on silica gel to give 6.3 g of the title product. MS (DCI/NH3) m/e: 142 (M+H)+. 1H NMR (CDCI3, 300 MHz) δ: 6.05-5.90 (m, 1H), 5.33-5.17 (m, 2H), 3.77-3.68 (m, 1H), 3.58-3.47 (m, 2H), 3.32-3.20 (m, 1H), 3.16-3.05 (m, 1H), 2.90-2.78 (m, 1H), 2.53-2.40 (m, 1H), 2.02-1.73 (m, 4H).

reactant | (S)-1-methyl-2-pyrrolidinemethanol | 50 mmol, 5.10 g | CN1[C@@H](CCC1)CO | C6H13NO
reactant | allyl bromide | 5.25 mL | C(C=C)Br | C3H5Br
reactant | triethylamine | 8.34 mL | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-allyl-2-(S)-pyrrolidinemethanol | 6.3 g | C(C=C)N1[C@@H](CCC1)CO | C8H15NO
